datasets/10k_Mayr_OG.csv
SMILES Labelled
"COC1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2>>COC1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20]([C:21]2=[C:22](C)[N:23](C)C3=C2C=CC=C3)[C:31]2=[C:32](C)[N:33](C)[C:42]3=[C:41]2C=CC=C3)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(=O)N1CC[N:14]2CCN(C(C)=O)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(=O)N1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=C(Cl)C=C1)[CH:61]=[C:62]3N(C(C)=O)CC2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
C1=C[C:63]2=[C:64](C=C1)[CH:73]=[CH:72][C:61]([S-:10])=[CH:62]2.C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28>>C[CH:20]([S:10][C:61]1=[CH:62][C:63]2=[C:64](C=CC=C2)[CH:73]=[CH:72]1)[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28 10=20
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.C[C:61]1=[N:10]CC[S:62]1>>C[C:61]1=[N+:10]([CH:20]2CC[C:22]([O-:23])=[CH:21]2)CC[S:62]1 10=20;20,21=21,22;22,23=23"
Cl[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([O:10][C:61]2=[CH:62][CH:63]=[C:64](Cl)[CH:73]=[CH:72]2)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10=20
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCCC1>>C[N:21](C)[CH:20]([CH:10]1CCCCC[C:11]1=[O+:12][Si:63](C)(C)C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
"CC[O:62]/[C:11](=[CH:10]/C1=CC=CC=C1)[O-:12].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:62][C:11]([CH:10](C1=CC=CC=C1)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)=[O:12] 10,11=10,20;12=11,12"
"C1C[N:10]=[C:11]2[N:12](C1)CCC[NH:62]2.C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([N:10]2CCC[N+:12]3=[C:11]2[NH:62]CCC3)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11](C)=[CH2:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>C[C+:11](C)[CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]1 10,11=10,20"
F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.O=[N+]([O-])C1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>O=[N+]([O-])C1=CC=C([S:61]([CH:10](Cl)[C:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)(=[O:62])=[O:72])C=C1 10=20
C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.CC[O:82][C:71]([C-:10](F)[C:61](=[O:62])[O:92]CC)=[O:72]>>CC[O:82][C:71]([C:10](F)([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:45]=[CH:46]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20
CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.[Cl-:10]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([Cl:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10=20
"CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1.C[Si:63]1(C)CCCC[CH:11]([H:10])[CH2:62]1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[H:10])(=[O:33])=[O:34])C=C1.C[Si:63]1(C)CCCC[CH+:11][CH2:62]1 10,11=10,20;20,21=21"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[N:14]1[C:13]2=[C:12]([CH:11]([H:10])[C:72]3=[C:73]1[CH:74]=[CH:75][CH:76]=[CH:77]3)[CH:83]=[CH:84][CH:85]=[CH:86]2>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[N+:14]1=[C:13]2[C:12](=[CH:11][C:72]3=[C:73]1[CH:74]=[CH:75][CH:76]=[CH:77]3)[CH:83]=[CH:84][CH:85]=[CH:86]2 10,11=10,20;12,13=11,12;14=13,14"
